*SPICE model for AT-31011

.SUBCKT AT31011 60      20      40
LL1     20      25      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    25      0       .11PF
LT1     25      30      .40NH
C2T1    30      0       .11PF
*
LLB     30      35      .5NH
CCEB    30      50      .04PF
LL2     40      45      .01NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    45      0       .06PF
LT2     45      50      .10NH
C2T2    50      0       .06PF
*
LLE     50      55      .25NH
CCEC    50      70      .01PF
LL3     60      65      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    65      0       .13PF
LT3     65      70      .47NH
C2T3    70      0       .13PF
*
CCBC    30      70      .04PF
* CALL DIE MODEL 
XDIE    70      35      55      AT305
.ENDS

* DIE MODEL (excludes bond wires)
.SUBCKT AT310   75      20      85
CBBP    20      75      .03PF
CEBP    85      75      .03PF
QINT    75      20      85      Q310     
.ENDS

.MODEL  Q310    NPN (BF=100, BR=2.5, IS=1.6E-16, VA=20, TF=12PS, 
+               CJE=2.3E-13, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=2.9E-2, IKF=1.3E-2, XTF=4, NF=1.03, ISE=4.8E-13,
+               NE=2.5, RB=19.44, RE=1.22, RC=40.68, CJC=9.5E-14, CJS=1E-13,
+               XCJC=0.20, PS=0.8, MS=0.5, PC=0.76, MC=0.53)